US07750002B2
Amine preparation: A mixture of 1-BOC-3-piperidone (0.50 g), N-(2-methoxyethyl)methylamine (0.29 g), sodium triacetoxyborohydride (0.74 g) and acetic acid (0.14 mL) in 1,2-dichloroethane (30 mL) was stirred at room temperature for 6 h. The reaction mixture was then diluted with DCM, washed with sodium bicarbonate solution, dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography to yield 3-[(2-methoxy-ethyl)-methyl-amino]-piperidine-1-carboxylic acid tert-butyl ester (0.556 g). Treatment of this compound with HCl in DCM/MeOH yielded the desired amine, which was isolated as the hydrochloride salt.

reactant | 1-BOC-3-piperidone | 0.50 g | C(=O)(OC(C)(C)C)N1CC(CCC1)=O | C10H17NO3
reactant | N-(2-methoxyethyl)methylamine | 0.29 g | COCCNC | C4H11NO
reactant | sodium triacetoxyborohydride | 0.74 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.14 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-[(2-methoxy-ethyl)-methyl-amino]-piperidine-1-carboxylic acid tert-butyl ester | 0.556 g | C(C)(C)(C)OC(=O)N1CC(CCC1)N(C)CCOC | C14H28N2O3
